US08912180B2
4-(Morpholin-4-ylmethyl)benzenesulfonamide (35 mg) was dissolved in N,N-dimethylacetamide (1.25 mL), and 60% sodium hydride (4 mg) was added thereto, followed by stirring at room temperature for 30 minutes. To the reaction mixture was added 1-[6-chloro-2-(morpholin-4-yl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole (50 mg), followed by stirring at 120° C. for 1 hour. The mixture was cooled to room temperature, and then a saturated aqueous sodium chloride solution, ethyl acetate, and tetrahydrofuran were added thereto, followed by neutralization with a 10% aqueous potassium hydrogen sulfate solution, and then the organic layer was extracted. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:80-0:100 and subsequently chloroform:methanol=100:0-80:20) to obtain N-{6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}-4-(morpholin-4-ylmethyl)benzenesulfonamide (13 mg).

reactant | 4-(Morpholin-4-ylmethyl)benzenesulfonamide | 35 mg | N1(CCOCC1)CC1=CC=C(C=C1)S(=O)(=O)N | C11H16N2O3S
reactant | sodium hydride | 4 mg | [H-].[Na+]
reactant | 1-[6-chloro-2-(morpholin-4-yl)pyrimidin-4-yl]-2-(difluoromethyl)-1H-benzimidazole | 50 mg | ClC1=CC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C16H14ClF2N5O
reactant | sodium chloride | [Cl-].[Na+]
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylacetamide | 1.25 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}-4-(morpholin-4-ylmethyl)benzenesulfonamide | 13 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1)C=CC=C2)F | C27H29F2N7O4S
